US06306852B1
3-{1-(1,3-Benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl}-5-bromo-1-methyl-1H-indole
4 -Dimethylaminopyridine (151 mg) was added to a solution of 2-(1,3-benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetate acid (the product of Example 68, 480 mg. 1.24 mmol) in anhydrous dichloromethane (10 ml) at ambient temperature. 2-Methoxy-4-methyl-1-benzenesulfonamide (from Preparation 11, 300 mg, 1.48 mmol) was added to the solution, followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (355 mg. 1.85 mmol), and stirring was continued for 20 hours. The solution was washed twice with 2N hydrochloric acid, and dried (magnesium sulphate) and the solvents removed in vacuo. The residue was flash chromatographed using 1% methanol in dichloromethane as eluant, and crystallised from dichloromethane and diethyl ether mixture to give the subtitle compound (535 mg).

reactant | 2-(1,3-benzodioxol-5-yl)-2-(5-bromo-1-methyl-1H-3-indolyl)acetate | O1COC2=C1C=CC(=C2)C(C(=O)[O-])C2=CN(C1=CC=C(C=C21)Br)C
reactant | 2-Methoxy-4-methyl-1-benzenesulfonamide | 1.48 mmol, 300 mg | COC1=C(C=CC(=C1)C)S(=O)(=O)N | C8H11NO3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.85 mmol, 355 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4 -Dimethylaminopyridine | 151 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-{1-(1,3-Benzodioxol-5-yl)-2-[(2-methoxy-4-methylphenyl)sulfonamido]-2-oxoethyl}-5-bromo-1-methyl-1H-indole | 535 mg | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=C(C=C(C=C2)C)OC)C2=CN(C1=CC=C(C=C21)Br)C | C26H23BrN2O6S
